US04365066
(b) 2-(4-n-Hexadecyloxyphenyl)-5-ethoxy-4-oxazoleacetic acid
To a solution of 20 g of ethyl 2-(4-hexadecyloxyphenyl)-5-ethoxy-4-oxazoleacetate in 200 ml of methanol was added a solution of 7.6 g of sodium hydroxide in 20 ml of water under stirring at room temperature and stirred for about 3.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in water and the solution was acidified with hydrochloric acid to pH 1 under cooling. The precipitate was filtered off, dried and recrystallized from methanol to give 11.7 g of the title compound of white powder, m.p. 89°-91° C.

reactant | ethyl 2-(4-hexadecyloxyphenyl)-5-ethoxy-4-oxazoleacetate | 20 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)OCC | C31H49NO5
reactant | sodium hydroxide | 7.6 g | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-(4-n-Hexadecyloxyphenyl)-5-ethoxy-4-oxazoleacetic acid | 11.7 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)OCC | C29H45NO5
